US06335447B1
To a suspension of 5.70 g of N-[5-(3-amino-2-methyl-phenyl)-3-methyl-2-pyridyl]-N,2,2-trimethylpropanamide in 34.2 ml of methanol were added 4.40 g of acetic acid and 4.32 g of 1-ethoxy-1-trimethylsilyloxycyclopropane and the mixture was refluxed for 7 hours under a nitrogen atmosphere. Concentration of the reaction mixture under reduced pressure afforded 6.98 g of N-(5-{3-[(1-methoxycyclopropyl)amino]-2-methylphenyl}-3-methyl-2-pyridyl)-N,2,2-trimethylpropanamide.

reactant | N-[5-(3-amino-2-methyl-phenyl)-3-methyl-2-pyridyl]-N,2,2-trimethylpropanamide | 5.70 g | NC=1C(=C(C=CC1)C=1C=C(C(=NC1)N(C(C(C)(C)C)=O)C)C)C | C19H25N3O
reactant | acetic acid | 4.40 g | C(C)(=O)O | C2H4O2
reactant | 1-ethoxy-1-trimethylsilyloxycyclopropane | 4.32 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
solvent | methanol | 34.2 ml | CO | CH4O
product | N-(5-{3-[(1-methoxycyclopropyl)amino]-2-methylphenyl}-3-methyl-2-pyridyl)-N,2,2-trimethylpropanamide | 6.98 g | COC1(CC1)NC=1C(=C(C=CC1)C=1C=C(C(=NC1)N(C(C(C)(C)C)=O)C)C)C | C23H31N3O2
